US03991070
Following the procedure of Example 1, 2',5-dichloro-2-[3-phthalimidomethyl-4H-1,2,4-triazol-4-yl]benzophenone is reacted with N-bromosuccinimide to form the 2',5-dichloro-2-[3-bromo-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 2',5-dichloro-2-[3-phthalimidomethyl-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C24H14Cl2N4O3
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 2',5-dichloro-2-[3-bromo-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)Br)=O | C24H13BrCl2N4O3
